2139-01-29 07:51:00 Physician Resident Progress Note
Chief Complaint: polysubstance overdose
   24 Hour Events:
 INVASIVE VENTILATION - START [**2139-1-28**] 01:00 PM
   trans from OSH then EW then [**Hospital Unit Name **]
 EKG - At [**2139-1-29**] 12:28 AM
   Overnight, quiet. Pt doing well on vent. Responsive with decr in
   propofol.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2139-1-29**] 04:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-1-28**] 08:30 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain otherwise unable to to answer [**1-5**]
   intubation
   Flowsheet Data as of  [**2139-1-29**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 80 (68 - 89) bpm
   BP: 125/74(86) {102/65(74) - 125/79(89)} mmHg
   RR: 17 (4 - 17) insp/min
   SpO2: 98%
             Total In:
                                                                  1,422 mL
                                                                  1,007 mL
   PO:
             TF:
   IVF:
                                                                  1,422 mL
                                                                  1,007 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    530 mL
   Urine:
                                                                    800 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    622 mL
                                                                    477 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 26 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/48/117/26/1
   Ve: 8.8 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Trace, Left: Trace, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   207 K/uL
   12.5 g/dL
   96 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.1 mEq/L
   5 mg/dL
   106 mEq/L
   140 mEq/L
   36.6 %
   6.7 K/uL
        [image002.jpg]
                             [**2139-1-28**]  04:39 PM
                             [**2139-1-28**]  05:40 PM
                             [**2139-1-28**]  09:35 PM
                             [**2139-1-29**]  05:32 AM
   WBC
   7.4
   6.7
   Hct
   38.9
   36.6
   Plt
   247
   207
   Cr
   0.7
   0.8
   TCO2
   28
   Glucose
   100
   96
   Other labs: PT / PTT / INR:13.1/24.9/1.1, ALT / AST:14/23, Alk Phos / T
   Bili:77/0.4, Lactic Acid:1.4 mmol/L, LDH:154 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   48 y.o. man w/ pmh of depression and previous suicide attempt, found
   down at home in vomitus, caused by toxic ingestion of alcohol and
   multiple medications, with tox screen positive for acetominophen.
   .
   #.Acetominophen Toxicity. Received acetyl cysteine loading dose at
   [**Hospital3 735**]. Toxicity level 16 at presentation to [**Hospital1 19**]. LFTs flat
   now. 16 hr NAC to end today at 11:30. Toxicology on board
   -recheck LFTs, INR, APAP level at 11:30. If LFTs elevated, APAP >10  or
   coagulopathic, would need another 16 hrs NAC. Otherwise, no further tx
   necessary
   -[**Hospital1 7**] LFTs today
   .
   #. Other Toxic Ingestions: At risk for prolongued QTc given multiple
   SSRIs, antipsychotics ingested. Currently, no EKG changes. Also at risk
   for Serotonin syndrome although no tachycardia, myoclonus, fever yet.
   Did have clots here on NG lavage which cleared and Hct stable.
   -[**Hospital1 7**] EKG, lytes, lactate today
   -monitor for signs/symptoms of serotonin syndrome incl myoclonus,
   fever, tachycardia
   .
   #.Respiratory Failure:  [**1-5**] AMS now clearing as Propofol is weaned
   today. Trial of PS underway now. CXR without infiltrate.
   -Cont PS trial today and expect extubation this afternoon (likely after
   c collar removed so that pt may be more comfortable).
   .
   #? Neck trauma: Pt still in hard neck collar placed by EMS in field. CT
   C spine done this am without read
   -Get CT read then clear C spine prior to extubation. Will investigate
   policy re: who needs to clear the C spine
   .
   #.Depression: Once pt is extubated and able to communicate, will
   consult Social work and psych for recent suicide attempt. [**Month (only) 51**] need inpt
   Psych hospitalization.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2139-1-28**] 03:55 PM
   20 Gauge - [**2139-1-28**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: with mother
   [**Name (NI) 36**] status: Full code
   Disposition:ICU

2139-01-30 07:44:00 Physician Resident Progress Note
Chief Complaint: Drug overdose
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2139-1-29**] 02:00 PM
   trans from OSH then EW then [**Hospital Unit Name **]
   - spoke to radiology re: c-spine:  no fractures
   - Cleared cervical collar and extubated patient.  Did well afterward
   - acetaminophen levels fell to undectectable
   - started on nicotine patch
   - had 1:1 sitter after extubation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2139-1-29**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Musculoskeletal: back pain
   Psychiatric / Sleep: passively suicidal
   Flowsheet Data as of  [**2139-1-30**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 88 (72 - 112) bpm
   BP: 105/61(72) {105/57(67) - 126/79(89)} mmHg
   RR: 22 (14 - 24) insp/min
   SpO2: 96%
   Height: 67 Inch
             Total In:
                                                                  2,323 mL
                                                                    305 mL
   PO:
                                                                    720 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,603 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                  1,180 mL
   Urine:
                                                                  2,025 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    298 mL
                                                                   -875 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 323 (323 - 323) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.44/44/73.[**Numeric Identifier 218**]/28/4
   Ve: 8.5 L/min
   PaO2 / FiO2: 146
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, and time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   236 K/uL
   13.3 g/dL
   135 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.1 mEq/L
   6 mg/dL
   109 mEq/L
   143 mEq/L
   39.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2139-1-28**]  04:39 PM
                             [**2139-1-28**]  05:40 PM
                             [**2139-1-28**]  09:35 PM
                             [**2139-1-29**]  05:32 AM
                             [**2139-1-30**]  04:03 AM
                             [**2139-1-30**]  06:35 AM
   WBC
   7.4
   6.7
   7.6
   Hct
   38.9
   36.6
   39.4
   Plt
   247
   207
   236
   Cr
   0.7
   0.8
   0.8
   TCO2
   28
   31
   Glucose
   100
   96
   135
   Other labs: PT / PTT / INR:12.2/23.1/1.0, ALT / AST:16/30, Alk Phos / T
   Bili:79/0.6, Differential-Neuts:71.4 %, Lymph:22.1 %, Mono:4.2 %,
   Eos:2.0 %, Lactic Acid:0.9 mmol/L, LDH:206 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   48 y.o. man w/ pmh of depression and previous suicide attempt, found
   down at home in vomitus, caused by toxic ingestion of alcohol and
   multiple medications, with tox screen positive for acetominophen.
   .
   #.Acetominophen Toxicity. Received acetyl cysteine loading dose at
   [**Hospital3 735**]. Toxicity level 16 at presentation to [**Hospital1 19**]. LFTs flat
   now. 16 hr NAC to end today at 11:30. Toxicology on board
   -recheck LFTs, INR, APAP level at 11:30. If LFTs elevated, APAP >10  or
   coagulopathic, would need another 16 hrs NAC. Otherwise, no further tx
   necessary
   -[**Hospital1 7**] LFTs today
   .
   #. Other Toxic Ingestions: At risk for prolongued QTc given multiple
   SSRIs, antipsychotics ingested. Currently, no EKG changes. Also at risk
   for Serotonin syndrome although no tachycardia, myoclonus, fever yet.
   Did have clots here on NG lavage which cleared and Hct stable.
   -[**Hospital1 7**] EKG, lytes, lactate today
   -monitor for signs/symptoms of serotonin syndrome incl myoclonus,
   fever, tachycardia
   .
   #.Respiratory Failure:  [**1-5**] AMS now clearing as Propofol is weaned
   today. Trial of PS underway now. CXR without infiltrate.
   -Cont PS trial today and expect extubation this afternoon (likely after
   c collar removed so that pt may be more comfortable).
   .
   #? Neck trauma: Pt still in hard neck collar placed by EMS in field. CT
   C spine done this am without read
   -Get CT read then clear C spine prior to extubation. Will investigate
   policy re: who needs to clear the C spine
   .
   #.Depression: Once pt is extubated and able to communicate, will
   consult Social work and psych for recent suicide attempt. [**Month (only) 51**] need inpt
   Psych hospitalization.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2139-1-28**] 03:55 PM
   20 Gauge - [**2139-1-28**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor